US06627651B1
To a mixture of methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (400 mg), 4-propoxyphenylboric acid (536 mg), cupric acetate (271 mg), MS (molecular sieves) 4A (1.0 g) and dichloromethane (15 ml) was added at room temperature triethylamine (1.04 ml), and the resulting mixture was stirred for 20 hours. The reaction mixture was filtered to remove an insoluble material and the filtrate was concentrated under reduced pressure. The residue was subjected to separation and purification using column chromatography (ethyl acetate:hexane 1:2) to obtain methyl 7-(4-propoxyphenoxy)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.31 g) as a light yellow, oily substance.

reactant | methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 400 mg | OC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H12O5S
reactant | 4-propoxyphenylboric acid | 536 mg | C(CC)OC1=CC=C(C=C1)OB(O)O | C9H13BO4
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.04 ml | C(C)N(CC)CC | C6H15N
product | methyl 7-(4-propoxyphenoxy)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.31 g | C(CC)OC1=CC=C(OC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=C1 | C21H22O6S
